### PR TITLE
Configure an initial machine with import/export tables, threads, etc

### PR DESCRIPTION
**Pull request by stellamplau**
Additions:

- Import tables, export tables, and libraries in the initial machine configuration.
- Initial properties about capabilities a compartment and stack initially have access to, in terms of PCC/CGP/CSP/import tables.
- A notion of the provenance of an address (stack or compartment) and  a proof of uniqueness.
- For validation purposes, prove that mutually disjoint compartments are initially isolated (in terms of RWX addresses, sentries, and sealed data caps).
- Helper tactics and lemmas about reachable addresses, `Restrict`, etc.

Spec bug fixes:

- Enforce that the authorization cap has `Perm.Cap` when storing a cap.
- Fix property on `linkCap` in `WfCallSentryInst` (permissions should be reduced before sealing, else no cap satisfies `RestrictUnsealed` property).
- Ensure authorization cap in `Seal` and `Unseal` is not sealed.

### CODE REVIEW

File: src/SpecLemmas.v [hunk 1]
```diff
@@ -80,6 +91,101 @@ Section WithContext.
...
+      cbv[Restrict isSealed]. intros. by case_match. 
+    Qed.
+    Lemma setCapSealedNoneEq:
+      forall (c: Cap), capSealed c = None -> setCapSealed c None = c.
+    Proof.
+      cbv[setCapSealed]. destruct c; intros; cbn in *; subst; auto.
+    Qed.
+    Lemma setCapSealed_inv:
+      forall (x: Cap) y z,
+        setCapSealed (setCapSealed x y) z = setCapSealed x z.
```
Comment (vmurali) [inline src/SpecLemmas.v:185]: This seems like a weird property. In particular, you shouldn't be able to reseal a sealed cap

**Review by vmurali — APPROVED** [review]

File: src/SpecLemmas.v (hunk 1 above)
Comment (stellamplau) [reply src/SpecLemmas.v]: Indeed! `y` and `z` are actually (poorly-named) `option sealT` values and `setCapSealed` just sets the `capSealed` field. I pushed a naming fix.
